US08865698B2
(R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-(4-fluorophenyl)urea
To a DCM (0.8 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 25 mg, 0.079 mmol) was added 1-fluoro-4-isocyanatobenzene (13 mg, 0.095 mmol) at ambient temperature drop-wise, followed by addition of DIEA (0.028 mL, 0.16 mmol). The reaction was stirred for 90 minutes before it was concentrated and directly purified by column chromatography on silica, eluting with 3:1 EtOAc/hexanes to yield the final product as a solid (30 mg, 84% yield). MS (apci) m/z=453.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.079 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | 1-fluoro-4-isocyanatobenzene | 0.095 mmol, 13 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | DIEA | 0.16 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-(4-fluorophenyl)urea | 30 mg, 84% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)NC2=CC=C(C=C2)F | C23H19F3N6O
